US06100429
Sabourin, Prepr. Div. Pet. Chem., Am. Chem. Soc., vol. 24, pp. 233-239 discloses the preparation of 2-methyl-4-(3-aminophenyl)-3-butyn-2-ol (an aminophenylacetylene) and 3-aminophenylacetylene in two and three steps, respectively, from 3-bromonitrobenzene and 2-methyl-3-butyn-2-ol. In the first step, 3-bromonitrobenzene and 2-methyl-3-butyn-2-ol were reacted in the presence of a catalyst system of bis(triphenylphosphine)palladium dichloride, additional triphenylphosphine, and cuprous iodide in triethylamine solvent at the reflux temperature to obtain 2-methyl-4-(3-nitrophenyl)-3-butyn-2-ol. In the second step, this nitrophenylacetylene was hydrogenated in isopropanol in the presence of a Ru/Al2 03 catalyst to obtain 2-methyl-4-(3-aminophenyl)-3-butyn-2-ol. This reference states that is essential to stop the hydrogenation reaction at the stoichiometric point because reduction of the triple bond ensues. In the third step, this aminophenylacetylene was heated in toluene in the presence of sodium hydroxide pellets, with removal of the acetone co-product by distillation, to obtain 3-aminophenylacetylene.

reactant | 2-methyl-4-(3-aminophenyl)-3-butyn-2-ol | CC(C)(C#CC1=CC(=CC=C1)N)O | C11H13NO
reactant | aminophenylacetylene | NC#CC1=CC=CC=C1 | C8H7N
reactant | 3-aminophenylacetylene | NC=1C=C(C=CC1)C#C | C8H7N
reactant | 3-bromonitrobenzene | BrC=1C=C(C=CC1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-methyl-3-butyn-2-ol | CC(C)(C#C)O | C5H8O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium dichloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-methyl-4-(3-nitrophenyl)-3-butyn-2-ol | CC(C)(C#CC1=CC(=CC=C1)[N+](=O)[O-])O | C11H11NO3
